US08865726B2
To the solution of (S)-2-amino-2-(5-fluoropyridin-2-yl)ethanol bis-hydrochloride (9.8 g, 43 mmol) in water (200 mL) cooled to 0° C. was added potassium hydroxide (24 g, 430 mmol) followed by THF (200 mL) and the reaction stirred until the temperature reached 0° C. To the reaction was added bis(trichloromethyl) carbonate (13 g, 43 mmol) (in THF, 200 mL) dropwise such that the internal temperature did not exceed 7° C., and the reaction was stirred for 2 hours. The reaction was diluted with ethyl acetate and the aqueous layer made basic with NaOH (1M). The organic layer was washed with brine, dried over MgSO4 and concentrated in vacuo. The crude material was chromatographed using a gradient of 50% DCM/EtOAc to EtOAc as eluent to yield (S)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one (4.3 g, 24 mmol, 55% yield).

reactant | (S)-2-amino-2-(5-fluoropyridin-2-yl)ethanol bis-hydrochloride | 43 mmol, 9.8 g | Cl.Cl.N[C@H](CO)C1=NC=C(C=C1)F
reactant | potassium hydroxide | 430 mmol, 24 g | [OH-].[K+]
reactant | bis(trichloromethyl) carbonate | 43 mmol, 200 mL, 13 g | C(OC(Cl)(Cl)Cl)(OC(Cl)(Cl)Cl)=O | C3Cl6O3
reactant | NaOH | 1M | [OH-].[Na+]
solvent | water | 200 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | (S)-4-(5-fluoropyridin-2-yl)oxazolidin-2-one | 24 mmol, 4.3 g, 55% yield | FC=1C=CC(=NC1)[C@@H]1NC(OC1)=O | C8H7FN2O2
